US07230031B2
Ethyl 2-acetyl-3-hydroxy-6-(5-methyl-7-nitroindan-4-yloxy)benzoate
Ethyl 2-acetyl-3-benzyloxy-6-(5-methyl-7-nitroindan-4-yloxy)benzoate (314 mg) was dissolved in trifluoroacetic acid/water/dimethylsulfide (95/5/10) (3 mL). The mixture was stood overnight at room temperature and evaporated under reduced pressure to dryness. Adding water, the residue was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1−3/1) to give the title compound (217 mg).

reactant | Ethyl 2-acetyl-3-benzyloxy-6-(5-methyl-7-nitroindan-4-yloxy)benzoate | 314 mg | C(C)(=O)C1=C(C(=O)OCC)C(=CC=C1OCC1=CC=CC=C1)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C28H27NO7
solvent | trifluoroacetic acid water dimethylsulfide | 3 mL | FC(C(=O)O)(F)F.O.CSC
product | Ethyl 2-acetyl-3-hydroxy-6-(5-methyl-7-nitroindan-4-yloxy)benzoate | 217 mg | C(C)(=O)C1=C(C(=O)OCC)C(=CC=C1O)OC1=C2CCCC2=C(C=C1C)[N+](=O)[O-] | C21H21NO7
